US08283354B2
To {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid (427 mg, 1.57 mmol) in 2 mL of THF was added sequentially HBTU (624 mg, 1.2 mmol), diisopropyl ethylamine (860 μL, 4.71 mmol) at room temperature. After 5 min, 4-(2-hydroxy-4-methyl-pentanoyl)-piperazine-1-carboxylic acid benzyl ester (403 mg 1.2 mmol) in 2 mL of THF was added to the reaction mixture, and the solution was heated at 65° C. for 12 h. The reaction mixture was cooled and diluted with 20 mL of CH2Cl2 and 10 mL of water. The organic layer was separated and dried over Na2SO4, and the solvent was removed under reduced pressure to give an oil. The residue was subjected to purification by normal phase LC using 30-100% EtOAc-hexanes to give 4-[2-(2-{[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetoxy)-4-methyl-pentanoyl]-piperazine-1-carboxylic acid benzyl ester (283 mg, 41% yield). LC/MS: m/z 577 (M+H)+ at 3.43 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | {[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetic acid | 1.57 mmol, 427 mg | C(C)(C)(C)OC(=O)N(CC(=O)N(C)CC(=O)O)C | C11H20N2O5
reactant | HBTU | 1.2 mmol, 624 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropyl ethylamine | 4.71 mmol, 860 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(2-hydroxy-4-methyl-pentanoyl)-piperazine-1-carboxylic acid benzyl ester | 1.2 mmol, 403 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C(CC(C)C)O)=O | C18H26N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 4-[2-(2-{[2-(tert-butoxycarbonyl-methyl-amino)-acetyl]-methyl-amino}-acetoxy)-4-methyl-pentanoyl]-piperazine-1-carboxylic acid benzyl ester | 283 mg, 41% yield | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C(CC(C)C)OC(CN(C)C(CN(C)C(=O)OC(C)(C)C)=O)=O)=O | C29H44N4O8
